US06642389B2
a] [rac]-3-{4-[2-(2-Chloro-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2-methyl-phenyl}-ethoxy-propionic acid ethyl ester
Cesium carbonate (97 mg, 300 μmol, 1.5 eq.) and a trace of potassium iodide were added to a solution of [rac]-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester (50 mg, 200 μmol, 1 eq., example 129 c]) and 4-chloromethyl-2-(2-chloro-phenyl)-5-methyl-oxazole (72 mg, 300 μmol, 1.5 eq., prepared from 2-chloro-benzaldehyde and diacetyl monoxyme followed by treatment with POCl3 in analogy to the procedures described in examples 21 a] and b]) in acetone (4 ml). The mixture was heated under reflux for 12 h, filtered off and the filtrate evaporated in vacuo. The residue was taken up in ethyl acetate and ice cold 1 M hydrochloric acid. The organic layer was washed two times with brine and dried over sodium sulfate. Removal of the solvent under reduced pressure gave a yellow oil which was purified by column chromatography (silica gel, hexane/AcOEt=9/1) to give 72 mg (160 μmol, 79%) of the title compound as colorless oil.

reactant | Cesium carbonate | 300 μmol, 97 mg, 1.5 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | [I-].[K+]
reactant | [rac]-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)O)C)OCC)=O | C14H20O4
reactant | 4-chloromethyl-2-(2-chloro-phenyl)-5-methyl-oxazole | ClCC=1N=C(OC1C)C1=C(C=CC=C1)Cl | C11H9Cl2NO
reactant | 2-chloro-benzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
solvent | acetone | 4 ml | CC(=O)C | C3H6O
product | [rac]-3-{4-[2-(2-Chloro-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2-methyl-phenyl}-ethoxy-propionic acid ethyl ester | 160 μmol, 72 mg, 79% | C(C)OC(C(CC1=C(C=C(C=C1)OCC=1N=C(OC1C)C1=C(C=CC=C1)Cl)C)OCC)=O | C25H28ClNO5
